US07378417B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [3-(2-hydroxy-ethylsulfamoyl)-phenyl]-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 3-amino-N-(2-hydroxy-ethyl)-benzenesulfonamide [CAS 436095-41-9] according to general procedure II. Light yellow solid. MS (ISP) 554.0 [(M−H)−]; mp 231° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 3-amino-N-(2-hydroxy-ethyl)-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCCO | C8H12N2O3S
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [3-(2-hydroxy-ethylsulfamoyl)-phenyl]-amide | OCCNS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C23H18F5N5O4S
